US06429214B1
[2-Oxo-7-(trifluoro-methanesulfonyloxy)-1,2,3,4-tetrahydroquinolin-3-yl]-acetic acid methyl ester
A solution of (7-hydroxy-2-oxo-1,2,3,4-tetrahydroquinolin-3-yl)-acetic acid methyl ester (5.5 g, 23 mmol) and triethylamine (16.3 mL, 117 mmol) in 1,4-dioxane (200 mL) was cooled to 0° C. and the resulting slurry treated dropwise with trifluoromethanesulfonic anhydride (7.9 mL, 47 mmol). The reaction mixture was warmed to 25° C. and after 1.5 h was concentrated in vacuo to an oily residue. The oily residue was taken up in methylene chloride (600 mL) and washed successively with water, 5% aqueous NaHCO3 and brine (300 mL each). The organic phase was dried (MgSO4) and concentrated to give a dark brown solid. Flash chromatography (220 g silica; 20%, then 40% EtOAc-hexane) gives the title compound (6.7 g, 78% yield) as a fluffy, pale yellow solid.

reactant | (7-hydroxy-2-oxo-1,2,3,4-tetrahydroquinolin-3-yl)-acetic acid methyl ester | 23 mmol, 5.5 g | COC(CC1C(NC2=CC(=CC=C2C1)O)=O)=O | C12H13NO4
reactant | triethylamine | 117 mmol, 16.3 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 47 mmol, 7.9 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
solvent | 1,4-dioxane | 200 mL | O1CCOCC1 | C4H8O2
product | [2-Oxo-7-(trifluoro-methanesulfonyloxy)-1,2,3,4-tetrahydroquinolin-3-yl]-acetic acid methyl ester | 6.7 g, 78% yield | COC(CC1C(NC2=CC(=CC=C2C1)OS(=O)(=O)C(F)(F)F)=O)=O | C13H12F3NO6S
